US05059698
Preparation of α-(5-butyl-2-methyl-1,3-dioxolan-2-yl)-acetoxyethyl methacrylate
As described in Example 1, the above compound is prepared from 2-acetoacetoxyethyl methacrylate (42.8 g) and 1,2-hexanediol (26 g) in benzene (200 ml) with p-TsOH catalysis under a water separator. Yield: 77% of theory, boiling point=130°-136° C./0.02 mbar.

reactant | 2-acetoacetoxyethyl methacrylate | 42.8 g | C(C(=C)C)(=O)OCCOC(CC(=O)C)=O | C10H14O5
reactant | 1,2-hexanediol | 26 g | C(C(CCCC)O)O | C6H14O2
reactant | p-TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | α-(5-butyl-2-methyl-1,3-dioxolan-2-yl)-acetoxyethyl methacrylate | Yield: 77% | C(C(=C)C)(=O)OC(COC(C)=O)C1(OC(CO1)CCCC)C | C16H26O6
